US08222248B2
A mixture of methyl 2-(2,6-dichlorophenyl)-1H-indole-6-carboxylate (160 mg, 500 μmol) and 1N NaOH (1.5 mL) in ethanol (25 mL) was heated at 80° C. for 18 h. The solution was cooled to ambient temperature, diluted with ethyl acetate, acidified with conc. HCl, and the layers separated. The aqueous phase was re-extracted with ethyl acetate, and the combined organic layers were dried, filtered, and the solvent was removed under reduced pressure to afford 2-(2,6-dichlorophenyl)-1H-indole-6-carboxylic acid. MS (m/z) 304.0 (M−1).

reactant | methyl 2-(2,6-dichlorophenyl)-1H-indole-6-carboxylate | 500 μmol, 160 mg | ClC1=C(C(=CC=C1)Cl)C=1NC2=CC(=CC=C2C1)C(=O)OC | C16H11Cl2NO2
reactant | NaOH | 1N, 1.5 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2,6-dichlorophenyl)-1H-indole-6-carboxylic acid | ClC1=C(C(=CC=C1)Cl)C=1NC2=CC(=CC=C2C1)C(=O)O | C15H9Cl2NO2
